US06660742B2
Two equal batches of 4-chloro-3-nitroaniline (20.0 g each, 0.116 mol) were dissolved separately in freshly distilled dichloromethane (over P2O5) (150 mL each) and dry triethylamine (1.1 eq. each, 18 mL, 0.128 mol) under a drierite drying tube. Each of the reaction mixtures was chilled in an ice bath and benzyl chloroformate (50 mL each, 0.348 mol) was slowly added. The resulting solutions were heated to reflux for 4 days, and then they were combined and concentrated. The residue was further concentrated in vacuo using a kugelrohr apparatus (0.1 mm Hg, 60° C.) to give a thick oil. The oily material was dissolved in chloroform (300 mL) and washed with brine (100 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. The crude product was purified on a silica gel column, using a 2.5% methanol/chloroform as a solvent. A total yield of 32.2 g (46% yield) of N-benzyloxycarbonyl-4-chloro-3-nitroaniline was isolated as a yellow oil that solidified upon refrigeration. Rf320.61 (20% ethyl acetate/hexane). IR (neat) 3424, 3100, 3060, 3025, 2918, 2865, 1603, 1528, 1493, 1448, 1395, 1351, 1231, 1204, 1146, 1071, 1027, 960, 894, 841, 805, 734, 694. 1H-NMR (500 MHz, CDCl3) 7.28 (t, 9.0, 2H), 7.24 (s br, 1H), 7.22 (t, 9.0, 1H), 7.16 (d, 8.0, 1H), 7.13 (d, 9.0, 2H), 6.98 (d, 3.0, 1H), 6.73 (dd, 3.0, 8.0, 1H), 4.60 (s, 2H).

reactant | 4-chloro-3-nitroaniline | 0.116 mol, 20.0 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | triethylamine | 0.128 mol, 18 mL, 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.348 mol, 50 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | N-benzyloxycarbonyl-4-chloro-3-nitroaniline | yield of 32.2 g, 46% yield | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C14H11ClN2O4
